US04518597
6-[5-(3,4-Dichloro-phenylsulfinyl)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[5-(3,4-dichlorophenylmercapto)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[5-(3,4-dichlorophenylmercapto)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C21H23Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[5-(3,4-Dichloro-phenylsulfinyl)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C21H23Cl2NO4S
